US05244889
Trans 3-(acetylthiomethyl)-2-oxo-1-azacyclodecane-10-carboxylic acid (0.15 g, 0.52 mmol), 1-acetoxy-2-aminoethane hydrochloride (0.073 g, 0.52 mmol), 1-hydroxybenzotriazole (0.12 g, 0.52 mmol), and 4-methylmorpholine (0.17 mL, 1.56 mmol) are dissolved in methylene chloride (3.0 mL), and the reaction is cooled to 0° C. To this solution is added N-(dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (0.20 g, 1.04 mmol), and the reaction is allowed to warm up to room temperature and then stirred overnight. The reaction is diluted with more methylene chloride, and the organic layer is washed with 1N hydrochloric acid, saturated sodium bicarbonate, dried (MgSO4), and the solvent is evaporated. The product is purified by silica gel chromatography (75% ethyl acetate/hexane) to give 2-acetoxy-N-[[trans 3-(acetylthiomethyl)-2-oxo-1-azacyclodecan-10-yl]-carbonyl]-ethylamine, MS: M+1=373.

reactant | Trans 3-(acetylthiomethyl)-2-oxo-1-azacyclodecane-10-carboxylic acid | 0.52 mmol, 0.15 g | C(C)(=O)SC[C@@H]1C(N[C@H](CCCCCC1)C(=O)O)=O | C13H21NO4S
reactant | 1-acetoxy-2-aminoethane hydrochloride | 0.52 mmol, 0.073 g | Cl.C(C)(=O)OCCN
reactant | 1-hydroxybenzotriazole | 0.52 mmol, 0.12 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-methylmorpholine | 1.56 mmol, 0.17 mL | CN1CCOCC1 | C5H11NO
reactant | N-(dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 1.04 mmol, 0.20 g | Cl.CN(C)CCCN=C=NCC
solvent | methylene chloride | 3.0 mL | C(Cl)Cl | CH2Cl2
product | 2-acetoxy-N-[[trans 3-(acetylthiomethyl)-2-oxo-1-azacyclodecan-10-yl]-carbonyl]-ethylamine | C(C)(=O)OCCNC(=O)[C@H]1CCCCCC[C@@H](C(N1)=O)CSC(C)=O | C17H28N2O5S
